US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride (0.50 g, 1.60 mmol) and tert-butylisocyanate (0.19 mL, 1.60 mmol) in N,N-dimethylformamide (10 mL), was added triethylamine (0.45 mL, 3.20 mmol) at room temperature under nitrogen. After 18 h, water (200 mL) was added and the product was extracted with CH2Cl2 (5×100 mL). The organic layers were combined, dried (MgSO4) and concentrated in vacuo. The resulting residue was triturated in Et2O (50 mL) for 18 h. The product was isolated by filtration and dried in vacuo to give 1-tert-butyl-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a white solid (0.24 g, 40% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 20/80 CH3CN/0.1% H3PO4, 7.51 min (98.18%); mp: 260-262° C.; 1H NMR (DMSO-d6) δ 1.24 (s, 9H, 3 CH3), 1.89-2.11 (m, 1H, CHH), 2.28-2.48 (m, 1H, CHH), 2.60 (d, J=17.6 Hz, 1H, CHH), 2.80-3.04 (m, 1H, CHH), 4.17-4.36 (m, 3H, CHH, CH2), 4.44 (d, J=17.4 Hz, 1H, CHH), 5.11 (dd, J=5.0, 13.1 Hz, 1H, CH), 5.78 (s, 1H, Ar), 6.20 (t, J=5.9 Hz, 1H, NH), 7.37 (d, J=7.9 Hz, 1H, Ar), 7.44 (s, 1H, NH), 7.67 (d, J=7.7 Hz, 1H, Ar), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.50, 29.30, 31.21, 42.58, 47.10, 49.11, 51.56, 121.73, 122.87, 126.75, 130.14, 142.32, 145.55, 157.28, 167.98, 171.00, 172.85; LCMS: MH=373; Anal Calcd for C19H24N4O4: C, 61.28; H, 6.50; N, 15.04. Found: C, 61.00; H, 6.57; N, 15.03.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride | 1.60 mmol, 0.50 g | Cl.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | tert-butylisocyanate | 1.60 mmol, 0.19 mL | C(C)(C)(C)N=C=O | C5H9NO
reactant | triethylamine | 3.20 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | water | 200 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-tert-butyl-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 0.24 g, 40% yield | C(C)(C)(C)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C19H24N4O4
